US05721245
A solution of 115 mg of 3-[8-(2-acetoxyethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 1 ml of dimethylformamide and 2 ml of 33% aqueous ammonia was heated to 140° C. for 4 hours. The cooled mixture was evaporated and the residue was purified by chromatography on silica gel with ethyl acetate/petroleum ether (2:1). Crystallization from ethyl acetate/petroleum ether gave 13 mg of 3-[8-(2-acetoxyethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 272°-274° C.

reactant | 3-[8-(2-acetoxyethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 115 mg | C(C)(=O)OCCC1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)CC1 | C29H26N2O5
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ammonia | 2 ml | N | H3N
product | 3-[8-(2-acetoxyethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 13 mg | C(C)(=O)OCCC1CC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)CC1 | C29H27N3O4
